Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-2.12993247125
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8][H:9].[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],-4.4029738624
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([O:8])([H:10])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[O:8][C:9]1([H:10])[H:11],-0.681983839459
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.2321431434
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.73066408106
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.03688790981
[C:2]#[C:3][C:6][C:7]([H:8])[H:9].[H:1][C:5]#[C:4]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6][C:7]([H:8])[H:9],-5.97334760819
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.0999923672500005
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],7.30923755895
[H:12].[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.57258078957
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:10][H:11],2.65958699003
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7].[O:8][H:9],6.3132215269800005
[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],2.44201968154
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.86186421462
[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.57367444688
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3][H:4],5.74801787154
[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]#[C:14][H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:14]([H:15])[H:16],-1.98023613379
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],5.208406975330001
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.11353436347
[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.63469113473
[O:13][H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.4090698176
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:10]([H:11])([H:12])([C:13][H:14])[H:18].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:15]([H:16])[H:17],4.79305439
[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[O:1][C:2]([H:3])([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.752085128469999
[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.64072700171
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.348402835869998
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.914475097647
[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-1.58905582722
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[O:8],7.37589781373
